US06080743
a) 2-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethoxy)-acetic acid tert-butyl ester
300 mg (1.13 mmol) of 2,3-dimethoxy-5-hydroxymethyl-7-nitro-quinoxaline are placed in 8 ml of tetrahydrofuran and cooled to 0° C. 52 mg (1.05 equiv.) of approximately 55% NaH in oil are added and the mixture is stirred for 30 minutes at 0° C. 0.2 ml (1.5 equiv.) of bromo-acetic acid tert-butyl ester is added and after 20 minutes the ice-bath is removed. The reaction mixture is stirred at room temperature for 20 hours, diluted with water and extracted with ethyl acetate. The combined organic phases are washed once with brine, dried over magnesium sulfate and concentrated by evaporation. The residue is chromatographed (SiO2, ethyl acetate/petroleum ether 1:3) and the title compound is obtained in the form of a solid (340 mg).

reactant | 2,3-dimethoxy-5-hydroxymethyl-7-nitro-quinoxaline | 1.13 mmol, 300 mg | COC1=NC2=CC(=CC(=C2N=C1OC)CO)[N+](=O)[O-] | C11H11N3O5
reactant | NaH | 52 mg, 1.05 equiv. | [H-].[Na+]
reactant | bromo-acetic acid tert-butyl ester | 0.2 ml, 1.5 equiv. | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC)=O | C17H21N3O7
